US08372842B2
TFA (0.5 mL) was added to tert-butyl 4-(5-(3-fluorophenoxy)-1-(4-methoxybenzyl)-1H-pyrazolo[3,4-b]pyridin-4-yl)piperazine-1-carboxylate (0.020 g, 0.0375 mmol) in DCM (2 mL) and stirred at room temperature for 1 hour. The reaction was concentrated to dryness. The resulting residue was dissolved in TFA (1 mL) and heated at 65° C. for 2 hours. The reaction was concentrated to dryness. The resulting residue was dissolved in DCM (0.5 mL), and HCl in ether (1 mL, 2N) was added. The reaction was concentrated to dryness to give 5-(3-fluorophenoxy)-4-(piperazin-1-yl)-1H-pyrazolo[3,4-b]pyridine dihydrochloride (0.014 g, 99%) as a solid. MS APCI (+) m/z 314.1 detected.

reactant | TFA | 0.5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | tert-butyl 4-(5-(3-fluorophenoxy)-1-(4-methoxybenzyl)-1H-pyrazolo[3,4-b]pyridin-4-yl)piperazine-1-carboxylate | 0.0375 mmol, 0.020 g | FC=1C=C(OC=2C(=C3C(=NC2)N(N=C3)CC3=CC=C(C=C3)OC)N3CCN(CC3)C(=O)OC(C)(C)C)C=CC1 | C29H32FN5O4
reactant | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | 5-(3-fluorophenoxy)-4-(piperazin-1-yl)-1H-pyrazolo[3,4-b]pyridine dihydrochloride | 0.014 g, 99% | Cl.Cl.FC=1C=C(OC=2C(=C3C(=NC2)NN=C3)N3CCNCC3)C=CC1 | InChI=1S/C16H16FN5O.2ClH/c17-11-2-1-3-12(8-11)23-14-10-19-16-13(9-20-21-16)15(14)22-6-4-18-5-7-22;;/h1-3,8-10,18H,4-7H2,(H,19,20,21);2*1H
